US05157026
Step 1: 2,7-Dimethylimidazo[4,5-b]pyridine
The title compound was prepared from 2,3-diamino-4-picoline (0.246 g, 2 mmol) and acetic acid (0.15 ml) according to the procedure described in Step 1 of Example 9. The crude product was purified by flash chromatography on silica-gel using EtOAc-MeOH (9:1) to give the pure product (0.25 g, 85%) as a light brown solid.

reactant | 2,3-diamino-4-picoline | 2 mmol, 0.246 g | NC1=NC=CC(=C1N)C | C6H9N3
reactant | acetic acid | 0.15 ml | C(C)(=O)O | C2H4O2
product | 2,7-Dimethylimidazo[4,5-b]pyridine | CC=1NC=2C(=NC=CC2C)N1 | C8H9N3
